parameters iout=20u iref=5u k=4 rout=8.358M vbp=505m vcompliance=415.5m vdd=1.2 vout_dc=600m
subckt Current_Mirror (IREF VOUT vdd vss)
M1 (n01 IREF vdd vdd) pch_lvt l=2.2u w=5.218u
M2 (n02 IREF vdd vdd) pch_lvt l=2.2u w=20.87u
M3 (VOUT vbp n02 vdd) pch_lvt l=1.995u w=43.15u
M4 (IREF vbp n01 vdd) pch_lvt l=1.995u w=12.03u
VBP (vbp vss) vsource dc=505m
ends Current_Mirror
